US04022900
Anisoyl chloride was reacted with 5-aminoisoquinoline according to the procedure of Example 8 to produce 5-(4-methoxybenzamido) isoquinoline. This product was then reduced according to the procedure of Example 8 to yield 5-(4-methoxybenzamido)-1,2,3,4-tetrahydroisoquinoline HCl. After purification from water it had a melting point of 289°-290° C.

reactant | Anisoyl chloride | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | 5-aminoisoquinoline | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
product | 5-(4-methoxybenzamido) isoquinoline | COC1=CC=C(C(=O)NC2=C3C=CN=CC3=CC=C2)C=C1 | C17H14N2O2
